US07338959B2
3-(4-{[2-(3-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-chloro-pyrimidin-4-yl)-N2-(3-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (99 mg, 0.25 mmol) and 3-amino-benzenesulfonamide (43 mg, 0.25 mmol) as a white solid (62 mg, 44%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.70 (s, 2H), 8.53 (s, 1H), 7.83 (d, J=6.0 Hz, 1H), 7.74 (d, J=6.6 Hz, 1H), 7.26-7.50 (M, 8H), 7.10 (m, 2H), 5.69 (d, J=6.0 Hz, 1H), 4.70 (d, J=5.1 Hz, 2H), 3.67 (s, 3H), 3.46 (s, 3H). MS (ESI) m/z=533 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(3-fluoro-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 99 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC(=CC=C2)F)C)C=C1)C | C20H18ClFN6
reactant | 3-amino-benzenesulfonamide | 0.25 mmol, 43 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-(4-{[2-(3-Fluoro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride | Cl.FC=1C=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=C(C=CC3)S(=O)(=O)N)C)C=CC1 | InChI=1S/C26H25FN8O2S.ClH/c1-34(24-11-12-29-25(33-24)31-19-7-4-8-21(14-19)38(28,36)37)20-9-10-23-22(15-20)32-26(35(23)2)30-16-17-5-3-6-18(27)13-17;/h3-15H,16H2,1-2H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
